US07910740B2
1162 mg (2.46 mmol) ((S)—1-{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-carbamic acid tert-butyl ester was dissolved in methylene chloride (24.6 ml) and 2M HCl in diethyl ether (12.3 ml) was added at room temperature. A solid precipitated. The reaction was stirred at room temperature over night. The reaction was diluted with diethyl ether, stirred for 15 minutes and the solid was filtered off, washed with diethyl ether and dried to yield 1195 mg (100%) [4-((S)-1-amino-3-methyl-butyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine trihydrochloride as a light yellow solid. MS ISP (m/e): 372.2 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.98 (s, 1H), 9.31 (s, 1H), 8.46 (br s, 3H), 7.93 (s, 1H), 7.66 (s, 1H), 7.47 (d, 1H), 7.31 (d, 1H), 7.13 (s, 1H), 4.27 (m, 1H), 3.90 (s, 3H), 2.35 (s, 3H), 1.94-1.83 (m, 1H), 1.80-1.69 (m, 1H), 1.52-1.39 (m, 1H), 0.90 (d, 3H), 0.86 (d, 3H).

reactant | ((S)—1-{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-carbamic acid tert-butyl ester | 2.46 mmol, 1162 mg | C(C)(C)(C)OC(N[C@@H](CC(C)C)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C24H33N5O3S
reactant | HCl | 2M | Cl | ClH
solvent | methylene chloride | 24.6 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 12.3 ml | C(C)OCC | C4H10O
product | [4-((S)-1-amino-3-methyl-butyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine trihydrochloride | 1195 mg, 100% | Cl.Cl.Cl.N[C@@H](CC(C)C)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | InChI=1S/C19H25N5OS.3ClH/c1-12(2)7-15(20)16-10-26-19(23-16)22-14-5-6-17(18(8-14)25-4)24-9-13(3)21-11-24;;;/h5-6,8-12,15H,7,20H2,1-4H3,(H,22,23);3*1H/t15-;;;/m0.../s1
